US05245035
A mixture of potassium carbonate (1.08 g; 7.8 mmol), 5-(2-bromophenyl)-1-(4-nitrophenyl)-1H-tetrazole (1.16 g; 3.2 mmol) water (10 ml), toluene (10 ml), and methanol (10 ml) was heated to 60° C. to give a clear solution. 2-(4-[(2-Ethylquinolin-4-yloxy)-methyl]phenyl)-5,5-dimethyl-1,3,2-dioxaborinane (1.0 g; 2.6 mmol) and tetrakis(triphenylphosphine)palladium (0.06 g; 0.05 mmol) were added and the reaction mixture heated at reflux for 6 hours. The mixture was allowed to cool and further toluene (10 ml) added. The organic phase was separated and the aqueous phase extracted with toluene (2×20 ml). The combined organic phases were evaporated and the resultant solid recrystallised from toluene to give 2-ethyl-4-[(2'-(1-(4-nitrophenyl)-1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]quinoline as a solid (0.8 g); m.p. and NMR similar to that of the product of Example 5.

reactant | potassium carbonate | 7.8 mmol, 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(2-bromophenyl)-1-(4-nitrophenyl)-1H-tetrazole | 3.2 mmol, 1.16 g | BrC1=C(C=CC=C1)C1=NN=NN1C1=CC=C(C=C1)[N+](=O)[O-] | C13H8BrN5O2
reactant | water | 10 ml | O | H2O
reactant | 2-(4-[(2-Ethylquinolin-4-yloxy)-methyl]phenyl)-5,5-dimethyl-1,3,2-dioxaborinane | 2.6 mmol, 1.0 g | C(C)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)B1OCC(CO1)(C)C | C23H26BNO3
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 10 ml | CO | CH4O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-ethyl-4-[(2'-(1-(4-nitrophenyl)-1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]quinoline | 0.8 g | C(C)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C1=CC=C(C=C1)[N+](=O)[O-] | C31H24N6O3
